Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Ceclor / Tetracycline Analogues / Plavix / Avandia / amlodipine 
/ Norvasc
 
Attending: ___.
 
Chief Complaint:
code stroke, AMS
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ woman with hx of HTN, HLD, CAD and ITP who
presents as OSH transfer for further work up of AMS. 
Briefly, per family patient was last known normal at 9 pm last
night. This morning she was reportedly found by family
incontinent of urine with left arm weakness and twitching. Pt 
was
also noted to be confused and difficulty producing language. She
was brought to an OSH and subsequently transferred to ___ for
further care. 
Of note, she had a recent admission at ___ one 
week
ago for similar symptoms which included difficulty with language
and bilateral leg weakness. The episode self resolved and she 
was
diagnosed with TIA at that time. 
She is on a baby ASA. 
When she initially presented to our ED, her initially NIHSS
performed by the ED resident was 12. However on my assessment
which was performed after her head imaging it was 3 indicating
rapid improvement. CT head showed no acute process. CTA showed
athero but no LVO. CT perfusion showed no perfusion abnormality.
She was not a tpa candidate given outside of time window and not
an EVT candidate given no LVO.
Patient does not have any hx of seizure. She does have a hx of
chronic UTI. 
At baseline she lives with her children, uses a walker. She can
shower herself but needs help with some of her ADL's.   

 
ROS: Unable to obtain
 

 
Past Medical History:
DYSPHAGIA                                                       
CORONARY ARTERY DISEASE                                         
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
DIABETES MELLITUS                                               
ECZEMATOUS DERMATITIS                                           
ERYTHRODERMA                                                    
SQUAMOUS CELL CANCER 
ITP                                           

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 
100.7 96 180/76 18 95% RA 
General: NAD
HEENT:mmm
CV: RRR, S1S2, no murmurs
Pulm: CTAB
Abd: s/nt/nd
Ext: no c/c/e
Neuro:
-MS: Alert and oriented to person and hospital. Not to date
(chronic per daughter). ___ cant perform DOWB. Cannot
name. ___ verbal output but can answer simple questions like
who she lives with and if she uses a walker etc  
-CN:PERRL, EOMI, very mild right facial asymmetry, Blinks to
threat in all visual fields including central. Speech is
dysarthric. 
-Motor: can lift BUE and BLE antigravity.
Sensation intact to light touch throughout

DISCHARGE PHYSICAL EXAM
=======================
General: NAD, pleasant, upright in bed
HEENT: dry MM, supple neck
CV: RRR, S1S2, no murmurs
Pulm: CTAB
Abd: Soft, nontender
Ext: Scattered petechial rash on ___ 

Neuro:
-MS: Alert and oriented to person, ___, ___. asked to state days of the week, however started 
counting
numbers. redirectable and stated days of week forward when 
asked.

-CN: PERRL 2-->1 bilaterally and brisk, EOMI, no facial
asymmetry. Intact facial sensation throughout. no dysarthria. 

-Motor: mild left upward drift. full strength throughout.

-Sensation: intact to light touch throughout

 
Pertinent Results:
ADMISSION LABS
==============
___ 02:52PM BLOOD WBC-6.7 RBC-3.40* Hgb-11.5 Hct-33.6* 
MCV-99* MCH-33.8* MCHC-34.2 RDW-16.0* RDWSD-56.2* Plt Ct-76*
___ 02:52PM BLOOD Neuts-91.3* Lymphs-3.0* Monos-5.1 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-6.10 AbsLymp-0.20* 
AbsMono-0.34 AbsEos-0.01* AbsBaso-0.01
___ 02:52PM BLOOD ___ PTT-25.3 ___
___ 02:52PM BLOOD Plt Smr-VERY LOW* Plt Ct-76*
___ 03:00PM BLOOD Creat-0.7
___ 02:52PM BLOOD UreaN-16 Creat-0.8
___ 02:52PM BLOOD ALT-23 AST-34 CK(CPK)-32 AlkPhos-93 
TotBili-0.7
___ 02:52PM BLOOD cTropnT-<0.01
___ 02:52PM BLOOD Albumin-2.5* Calcium-8.0* Phos-2.0* 
Mg-1.7
___ 02:52PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:00PM BLOOD ___ Comment-GREEN TOP
___ 10:16PM BLOOD Lactate-5.3*
___ 05:40PM BLOOD Lactate-4.3*
___ 03:00PM BLOOD Glucose-210* Na-130* K-4.2 Cl-99 
calHCO3-23

URINE
=====
___ 03:53PM URINE Color-Straw Appear-Clear Sp ___
___ 03:53PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-150* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM*
___ 03:53PM URINE RBC-3* WBC-24* Bacteri-FEW* Yeast-NONE 
Epi-2 TransE-1
___ 03:53PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICRO
=====
URINE CULTURE (Final ___: 
CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    10,000-100,000 
CFU/mL.

IMAGING
=======
MR HEAD W & W/O CONTRAST Study Date of ___ 
IMPRESSION:
1. No acute intracranial abnormality.  No acute infarction. 
2. Chronic findings include age-appropriate global involutional 
changes and mild changes of chronic white matter 
microangiopathy. 

CTA HEAD W&W/O C & RECONS Study Date of ___  
IMPRESSION:
1. Long segments of moderate to severe luminal narrowing of the 
bilateral 
proximal PCAs affecting the P1 segments.  The distal PCAs 
branches remain 
patent.  Mild-to-moderate luminal narrowing of the bilateral 
cavernous and 
left supraclinoid ICAs.  Remaining circle of ___ vasculature 
is patent 
without additional area of stenosis, occlusion, or aneurysm. 
2. No acute intracranial abnormality by unenhanced head CT. 
3. Unremarkable CT perfusion. 
4. Calcified plaque causes 20% right and 28% left ICA luminal 
narrowing by 
NASCET criteria.  Otherwise, patent bilateral vertebral and 
carotid arteries in the neck. 
5. Calcified scarring and architectural distortion in the left 
lung apex 
likely reflects sequelae of prior granulomatous disease 
including TB.  Other incidental findings, as above.

DISCHARGE LABS
==============
___ 08:14AM BLOOD WBC-6.7 RBC-3.42* Hgb-11.6 Hct-33.6* 
MCV-98 MCH-33.9* MCHC-34.5 RDW-16.0* RDWSD-57.0* Plt ___
___ 08:14AM BLOOD Plt ___
___ 08:14AM BLOOD Glucose-116* UreaN-28* Creat-0.9 Na-133* 
K-4.1 Cl-105 HCO3-16* AnGap-12
___ 08:14AM BLOOD Calcium-7.9* Phos-2.0* Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a past medical history 
of HTN, HLD, CAD, ITP, and chronic UTIs who presented as an 
outside hospital transfer for further workup of altered mental 
status, found to have UTI.

#Toxic metabolic encephalopathy
#Acute on chronic urinary tract infection:
At home was noted to be more tired, minimally verbal, with some 
non-rhythmic, left hand movements of wrist flexion. She has been 
spending a good amount of time outside in the sun (up to 7 hours 
per day). Brought to the ED, where initial NIHSS was 12, after 
head imaging repeat NIHSS improved to 3. CTA demonstrated some 
atherosclerotic disease, CT head and CT perfusion unremarkable. 
Was initially somnolent in the ED, however was back to baseline 
several hours later, and remained at baseline throughout the 
rest of her admission (confirmed with family). Workup notable 
for UTI (UA with 24 white, some bacteria, urine culture with 
coryneabacerium diphtheroids). Initiated 7 day Bactrim course, 
has cephalosporin allergy. Reportedly has chronic UTI on 
suppressive nitrofurantoin chronically. 24 hour EEG with no 
seizures. Etiology of altered mental status most likely toxic 
metabolic given UTI, coupled with dehydration from spending 
large amounts of time in sun. Low suspicion for seizure, 
ischemic event. Notably was admitted to ___ 
approximately one week prior for difficulty with language and 
bilateral leg weakness diagnosed as TIA, resolved with IVF and 
discharged home, similarly preceded by spending the day outside 
in the sun.

TRANSITIONAL ISSUES:
====================
[] continue Bactrim to complete 7 day course (___)
[] encourage good PO intake
[] initiated ASA 81, consider discontinuing at next PCP visit
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Valsartan 160 mg PO DAILY 
2. Metoprolol Succinate XL 12.5 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Doses 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*10 Tablet Refills:*0 
3.  Atorvastatin 20 mg PO QPM  
4.  Metoprolol Succinate XL 12.5 mg PO DAILY  
5.  Valsartan 160 mg PO DAILY  
6.Rolling walker
Diagnosis: ICD10 R41.82
PX: good
Length of need: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Toxic metabolic encephalopathy
#Urinary tract infection
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at the ___ 
___.

WHY DID I COME TO THE HOSPITAL?
--You were more tired at home and your hand was shaking.

WHAT HAPPENED WHEN I WAS IN THE HOSPITAL?
--We evaluated you for a stroke and seizures. We found that you 
did NOT have a stroke or seizures.
--You had a urinary tract infection. We treated you with 
antibiotics and you got better with this treatment.
--We believe you were tired from having a urinary tract 
infection and also from spending time outside in the sun.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
--Please continue to take your medications as prescribed and 
follow-up with your doctors as ___.
--Please avoid spending excessive time outside in the sun. If 
you choose to spend time outside, stay in shaded areas and drink 
plenty of water.

We wish you all the best,
Your ___ care team 
 
Followup Instructions:
___